US04960775
A mixture of 2-hydroxymethyl-3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazine (1.22 g) and activated manganese dioxide (18 g) in diethyl ether (200 ml) was stirred at the ambient temperature under an atmosphere of argon for 24 hours. The suspension was then filtered and the solid was extracted with diethyl ether (3×50 ml). The extracts and filtrate were combined and evaporated, and the resulting residue was triturated with a mixture of petroleum ether (b.p. 40°-60° C.) and diethyl ether (8 ml; 3:1 v/v), to give 3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazine-2carboxaldehyde (0.88 g) in the form of a yellow solid, m.p. 163°-164° C. [Elemental analysis: C, 80.4; H, 5.78; N, 8.8%; calculated: C, 80.2; H, 5.77; N, 8.9%; NMR (in CDCl3): 1.52 (6H, d, J=7 Hz), 4.41 (1H, septet, J=7 Hz), 7.30-7.35 (3H, m), 7.42-7.50 (5H, m), 7.58-7.66 (1H, m), 8.34 (1H, s), 9.83 (1H, s); Mass spectrum (electron impact) m/z=314].

reactant | 2-hydroxymethyl-3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazine | 1.22 g | OCC=1C(=C2N(N=CC3=CC=CC=C23)C1C(C)C)C1=CC=CC=C1 | C21H20N2O
solvent | diethyl ether | 200 ml | C(C)OCC | C4H10O
catalyst | manganese dioxide | 18 g | [O-2].[O-2].[Mn+4]
product | 3-isopropyl-1-phenylpyrrolo[2,1-a]phthalazine-2carboxaldehyde | 0.88 g | C(C)(C)C1=C(C(=C2N1N=CC1=CC=CC=C21)C2=CC=CC=C2)C=O | C21H18N2O
